US06448290B1
Methyl 4-(2-Nitro-5-methylphenylthiomethyl)benzoate
To a solution of methyl 4-acetylthiomethylbenzoate (794 mg) in MeOH (5.0 ml), sodium methoxide (191 mg) and 3-fluoro-4-nitrotoluene (500 mg) were added suceedingly in a stream of argon at 0° C. The mixture was warmed slowly to become at room temperature. The mixture was stirred for 4 hours. To the reaction mixture, a saturated aqueous ammonium chloride was added. The mixture was extracted with ethyl acetate, washed, dried over and concentrated under the reduced pressure. The residue was recrystrallized from ethanol to give the title compound (646 mg) having the following physical data.

reactant | methyl 4-acetylthiomethylbenzoate | 794 mg | C(C)(=O)SCC1=CC=C(C(=O)OC)C=C1 | C11H12O3S
reactant | sodium methoxide | 191 mg | C[O-].[Na+]
reactant | 3-fluoro-4-nitrotoluene | 500 mg | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeOH | 5.0 ml | CO | CH4O
product | Methyl 4-(2-Nitro-5-methylphenylthiomethyl)benzoate | 646 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C)SCC1=CC=C(C(=O)OC)C=C1 | C16H15NO4S
